US05998433
b) Synthesis of N,N-dimethyl-[6-[4-(2-thenoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.251 g (0.744 mmol) of 6-[4-(2-thenoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 10 ml of acetic acid, 0.10 g (1.1 mmol) of 50% aqueous dimethylamine and 0.09 g (1.1 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 0.5 hours. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with an aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 6-[4-(2-thenoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.744 mmol, 0.251 g | C1(=CC=CS1)C(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=CO3)C=C1 | C19H15NO3S
reactant | dimethylamine | 1.1 mmol, 0.10 g | CNC | C2H7N
reactant | formaldehyde | 1.1 mmol, 0.09 g | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[6-[4-(2-thenoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CS2)=O)=O)O1 | C22H22N2O3S
